US04371536
0.1 g of 7-nitro-β-carbolin-3-carboxylic acid ethyl ester is suspended in 30 ml of ethanol and, after the addition of 1 ml of 5 N hydrochloric acid, is hydrogenated at normal pressure over 25 mg of platinum dioxide until the theoretical amount of hydrogen has been absorbed. The catalyst is filtered off and washed well with warm ethanol. The filtrate is treated with active carbon and concentrated until turbidity commences. After cooling, 95 mg of 7-amino-β-carbolin-3-carboxylic acid ethyl ester dihydrochloride of melting point 270° C. (decomposition) is obtained.

reactant | 7-nitro-β-carbolin-3-carboxylic acid ethyl ester | 0.1 g | C(C)OC(=O)C=1N=CC=2NC3=CC(=CC=C3C2C1)[N+](=O)[O-] | C14H11N3O4
reactant | hydrochloric acid | 5 N, 1 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 25 mg | [Pt](=O)=O
product | 7-amino-β-carbolin-3-carboxylic acid ethyl ester dihydrochloride | 95 mg | Cl.Cl.C(C)OC(=O)C=1N=CC=2NC3=CC(=CC=C3C2C1)N | InChI=1S/C14H13N3O2.2ClH/c1-2-19-14(18)12-6-10-9-4-3-8(15)5-11(9)17-13(10)7-16-12;;/h3-7,17H,2,15H2,1H3;2*1H
